US06251894B1
A mixture of (±)-cis-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-[5,6-dihydro-3-(hydroxymethyl)-11H-imidazo[2,1-b][3]benzazepin-11-ylidene]-1-piperidinyl]-2-(phenylmethyl)piperidine (4.5 g) and manganese dioxide (20 g) in CHCl3 (200 ml) was stirred and refluxed for 1 hour. The mixture was filtered warm over dicalite and the filtrate was evaporated. The residue as purified over silica gel on a glass filter (eluent: CH2Cl2/CH3OH 95/5). The pure fractions were collected and the solvent was evaporated. The residue was purified by HPLC (eluent: CH2Cl2/CH3OH 100/0 to 95/5). The pure fractions were collected and the solvent was evaporated, yielding 3.1 g (70%) of (±)-cis-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3-formyl-5,6-dihydro-11H-imidazo[2,1-b][3]benzazepin-11-ylidene)-1-piperidinyl]-2-(phenylmethyl)piperidine (comp. 11; mp. 125.8° C.).

reactant | (±)-cis-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-[5,6-dihydro-3-(hydroxymethyl)-11H-imidazo[2,1-b][3]benzazepin-11-ylidene]-1-piperidinyl]-2-(phenylmethyl)piperidine | 4.5 g | FC(C=1C=C(C(=O)N2[C@H](C[C@H](CC2)N2CCC(CC2)=C2C=3N(CCC4=C2C=CC=C4)C(=CN3)CO)CC3=CC=CC=C3)C=C(C1)C(F)(F)F)(F)F | C39H38F6N4O2
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | (±)-cis-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3-formyl-5,6-dihydro-11H-imidazo[2,1-b][3]benzazepin-11-ylidene)-1-piperidinyl]-2-(phenylmethyl)piperidine | 3.1 g, 70% | FC(C=1C=C(C(=O)N2[C@H](C[C@H](CC2)N2CCC(CC2)=C2C=3N(CCC4=C2C=CC=C4)C(=CN3)C=O)CC3=CC=CC=C3)C=C(C1)C(F)(F)F)(F)F | C39H36F6N4O2
